US07872009B2
Step 1: (±)-Ethyl 4-phenyl-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate
Tris(dibenzylideneacetone)dipalladium (0) (4.3 mg, 0.0046 mmol), xantphos (8.2 mg, 0.014 mmol), and bromobenzene (40 □L, 0.381 mmol) were added to a solution of (±)-ethyl 3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate (65 mg, 0.31 mmol) in dioxane (2.5 mL). The solids were allowed to dissolve, and cesium carbonate (143 mg, 0.44 mmol) was added, and the suspension was stirred at 100° C. for 24 h. The mixture was cooled to ambient temperature, diluted with water (20 mL), and the product was extracted with 67% EtOAc/hexane (3×25 mL). The organic layers were combined, dried over sodium sulfate, and concentrated. Purification of the crude concentrate by flash column chromatography using 15% EtOAc/hexane afforded the title compound. MS m/z: 284 (M+1).

reactant | xantphos | 0.014 mmol, 8.2 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | bromobenzene | 0.381 mmol | BrC1=CC=CC=C1 | C6H5Br
reactant | (±)-ethyl 3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate | 0.31 mmol, 65 mg | O1C2=C(NCC1C(=O)OCC)C=CC=C2 | C11H13NO3
reactant | cesium carbonate | 0.44 mmol, 143 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0046 mmol, 4.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (±)-Ethyl 4-phenyl-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate | C1(=CC=CC=C1)N1C2=C(OC(C1)C(=O)OCC)C=CC=C2 | C17H17NO3
